US08440689B2
B. Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate
A mixture of methyl 6-chloro-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate (390 mg, 1.220 mmol), Et3N (0.204 mL, 1.464 mmol) and tert-butyl (1S,2R)-2-aminocyclohexylcarbamate (392 mg, 1.830 mmol) in THF (5 mL) was stirred at 80° C. overnight. Water and EtOAc were subsequently added to the mixture and the aqueous phase was extracted with EtOAc. The organic phases were combined, washed with H2O and brine, dried over MgSO4, and evaporated. The residue was diluted with EtOAc and filtered to give the title compound as a yellow solid (75 mg, 12.36%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.03-1.71 (m, 17H), 2.22 (d, J=0.98 Hz, 3H), 3.80-3.82 (m, 3H), 3.83 (br s, 1H), 4.01-4.09 (m, 1H), 6.48 (s, 1H), 6.62 (d, J=7.81 Hz, 1H), 7.06 (t, J=9.03, 1H), 7.39 (d, J=4.39 Hz, 1H), 7.50-7.68 (m, 1H), 10.41 (br s, 1H).

reactant | methyl 6-chloro-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate | 1.220 mmol, 390 mg | ClC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=C(C=C1)F)C | C15H11ClFN3O2
reactant | Et3N | 1.464 mmol, 0.204 mL | CCN(CC)CC | C6H15N
reactant | tert-butyl (1S,2R)-2-aminocyclohexylcarbamate | 1.830 mmol, 392 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-cyano-2-(4-fluoro-3-methylphenylamino)nicotinate | 75 mg, 12.36% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)OC)C(=C1)C#N)NC1=CC(=C(C=C1)F)C | C26H32FN5O4
